US06005103
4-Hydroxy-3-[1-[(2-methoxyphenyl)thio]-3-methylbutyl]-6-phenyl-2H-pyran-2-one (±)
The title compound was prepared by Method C using 4-hydroxy-6-phenyl-2H-pyran-2-one (1.5 g, 7.98 mmol), isovaleraldehyde (0.69 g, 7.98 mmol), 2-methoxythiophenol (2.24 g, 15.96 mmol), piperidine, (1.0 mL), acetic acid (1.0 mL) and ethanol (15 mL). m.p. 75-78° C.; 1H NMR (400 MHz, DMSO-d6) δ0.86 (d, 3 H), 0.89 (d, 3 H), 1.53 (m, 1 H), 1.69 (m, 1 H), 2.19 (m, 1 H), 3.64 (s, 3 H), 4.69 (q, 1 H), 6.64 (s, 1 H), 6.89 (t, 1 H), 6.94 (d, 1 H), 7.17 (t, 1 H), 7.33 (d, 1 H), 7.53 (m, 3 H), 7.78 (m, 2 H); IR (KBr) 3063, 2955, 2635, 1649, 1564, 1406, 1242, 1026, 768, 750, 691 cm-1 ; MS (CI) m/e 257 ((M--SPh(OMe), 11), 201 (3), 169 (5), 141 (88); Analysis calc'd for C23H2404S1: C, 69.67; H, 6.10; found: C, 69.63; H, 5.92.

reactant | 3,3'-Dithiobis[4-hydroxy-6-phenyl-2H-pyran-2-one] | 7.98 mmol, 1.5 g | OC1=C(C(OC(=C1)C1=CC=CC=C1)=O)SSC=1C(OC(=CC1O)C1=CC=CC=C1)=O | C22H14O6S2
reactant | isovaleraldehyde | 7.98 mmol, 0.69 g | C(CC(C)C)=O | C5H10O
reactant | 2-methoxythiophenol | 15.96 mmol, 2.24 g | COC1=C(C=CC=C1)S | C7H8OS
reactant | piperidine | 1.0 mL | N1CCCCC1 | C5H11N
reactant | KBr | [K+].[Br-]
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | acetic acid | 1.0 mL | C(C)(=O)O | C2H4O2
product | 4-Hydroxy-3-[1-[(2-methoxyphenyl)thio]-3-methylbutyl]-6-phenyl-2H-pyran-2-one | OC1=C(C(OC(=C1)C1=CC=CC=C1)=O)C(CC(C)C)SC1=C(C=CC=C1)OC | C23H24O4S
